US07713994B2
To a suspension of 4-Methoxymethylene-4H-isoquinoline-1,3-dione (507 mg, 2.5 mmol) in N,N-dimethylformate (250 μL) is added 4-aminoethylbenzene sulfonylamide hydrochloride (556 mg, 2.5 mmol) and triethylamine (525 μL). The reaction mixture is shaken at 115° C. for 1.5 hours, then concentrated. Ethyl acetate is added to the solid residue that remained and the solid is recovered by filtration, rinsing with diethyl ether, and drying to yield 660.8 mg of 4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}benzenesulfonamide.

reactant | 4-Methoxymethylene-4H-isoquinoline-1,3-dione | 2.5 mmol, 507 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-aminoethylbenzene sulfonylamide hydrochloride | 2.5 mmol, 556 mg | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)[NH-]
reactant | triethylamine | 525 μL | C(C)N(CC)CC | C6H15N
product | 4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}benzenesulfonamide | 660.8 mg | O=C1NC(C(C2=CC=CC=C12)=CNCC1=CC=C(C=C1)S(=O)(=O)N)=O | C17H15N3O4S
